US08614234B2
To a stirred solution of methyl 4-{4-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}-1H-pyrrole-2-carboxylate (220 mg, 0.48 mmol) in THF/MeOH (3 ml/10 ml) was added 1M NaOH (4.0 ml, 4.0 mmol). The mixture was heated at 70° C. for 2 hours, cooled to room temperature and poured into 100 ml of water. 1M HCl was added until pH=4 and the resulting precipitates were filtered, washed with water and dried in vacuo to give 4-{4-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}-1H-pyrrole-2-carboxylic acid. Yield: 200 mg, 94%.

reactant | methyl 4-{4-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}-1H-pyrrole-2-carboxylate | 0.48 mmol, 220 mg | FC1=C(C=C(C=C1)C)NC(=O)NC1=CC=C(OC2=CC(=NC=C2)C=2C=C(NC2)C(=O)OC)C=C1 | C25H21FN4O4
reactant | NaOH | 4.0 mmol, 1M, 4.0 ml | [OH-].[Na+]
reactant | water | 100 ml | O | H2O
reactant | HCl | 1M | Cl | ClH
solvent | THF MeOH | 3 ml | C1CCOC1.CO
product | 4-{4-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}-1H-pyrrole-2-carboxylic acid | FC1=C(C=C(C=C1)C)NC(=O)NC1=CC=C(OC2=CC(=NC=C2)C=2C=C(NC2)C(=O)O)C=C1 | C24H19FN4O4
